US07262198B2
4-Fluoroaniline (0.7 ml, 7.6 mmol) was added to 2-methylenebutanedioic acid (1.0 g, 7.6 mmol) in a sealed tube. The mixture was heated to 110 degrees for 3 hours after which a precipitate formed. The reaction was filtered and the solid was dissolved in ethyl acetate and concetrated to yield 1-(4-fluorophenyl)-5-oxopyrrolidine-3-carboxylic acid (M+1=223.8). The product was taken to next step without determining mass.

reactant | 4-Fluoroaniline | 7.6 mmol, 0.7 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 2-methylenebutanedioic acid | 7.6 mmol, 1.0 g | C=C(C(=O)O)CC(=O)O | C5H6O4
product | 1-(4-fluorophenyl)-5-oxopyrrolidine-3-carboxylic acid | FC1=CC=C(C=C1)N1CC(CC1=O)C(=O)O | C11H10FNO3
